US07553849B2
Ethyl 4-amino-2-methyl-thiophene-3-carboxylate (12.8 mmol, 2.37 g) was dissolved in 1,4-dioxane (20 ml) and ethyl malonyl chloride (90%) (19.2 mmol, 2.73 ml) was added. The reaction mixture was heated at 50° C. for 1 h and was then allowed to reach room temperature. The reaction mixture was poured onto ice (60 g) and the product was collected by filtration, washed with water and dried (3.32 g, 87%). The malonic amide was dissolved in N,N-dimethylacetamide (DMA, 35 ml) and sodium hydride (NaH 60%, 2.0 equiv., 22.1 mmol) was added. The reaction mixture was heated at 60° C. for 1 h. After cooling and addition of water (50 ml) the product was precipitated by addition of 1 M hydrochloric acid (HCl, aq.) (30 ml). The precipitate was collected by filtration and was re-crystallized from ethanol giving 4,5-dihydro-7-hydroxy-1-methyl-5-oxo-2-thia-4-aza-indene-6-carboxylic acid ethyl ester (1.46 g, 52%). The carboxylic acid ethyl ester was dissolved in dimethylformamide (DMA, 40 ml) and NaH (3.0 equiv., 17.3 mmol, 692 mg) was added. The reaction mixture was heated to 40° C. for 15 minutes and was then cooled to 10° C. Iodomethane (1.3 equiv., 7.49 mmol, 0.47 ml) was added, the reaction mixture was stirred at ambient temperature for 2 hrs and was then poured onto 0.5 M HCl (aq) (50 ml). The precipitate was collected by filtration and re-crystallized from ethanol and then again from methyl isobutyl ketone to give the title compound (524 mg, 89%).

reactant | Ethyl 4-amino-2-methyl-thiophene-3-carboxylate | 12.8 mmol, 2.37 g | NC=1C(=C(SC1)C)C(=O)OCC | C8H11NO2S
reactant | ethyl malonyl chloride | 19.2 mmol, 2.73 ml | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | sodium hydride | 22.1 mmol, 2.0 equiv. | [H-].[Na+]
reactant | water | 50 ml | O | H2O
reactant | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 4,5-dihydro-7-hydroxy-1-methyl-5-oxo-2-thia-4-aza-indene-6-carboxylic acid ethyl ester | 1.46 g, 52% | C(C)OC(=O)C=1C(NC2=CSC(=C2C1O)C)=O | C11H11NO4S
